US04026898
refluxing said 7-oxo-1,2,3,3-tetramethyl-5-trifluoromethyl-2,3,7,8-tetrahydro-1H-pyrrolo [3,2-g] quinoline with trimethyl phosphate to yield 7-oxo-1,2,3,3,8-pentamethyl-5-trifluoromethyl-2,3,7,8-tetrahydro-1H-pyrrolo [3,2-g] quinoline.

reactant | 7-oxo-1,2,3,3-tetramethyl-5-trifluoromethyl-2,3,7,8-tetrahydro-1H-pyrrolo [3,2-g] quinoline | O=C1NC2=CC3=C(C=C2C(=C1)C(F)(F)F)C(C(N3C)C)(C)C | C16H17F3N2O
reactant | trimethyl phosphate | P(=O)(OC)(OC)OC | C3H9O4P
product | 7-oxo-1,2,3,3,8-pentamethyl-5-trifluoromethyl-2,3,7,8-tetrahydro-1H-pyrrolo [3,2-g] quinoline | O=C1N(C2=CC3=C(C=C2C(=C1)C(F)(F)F)C(C(N3C)C)(C)C)C | C17H19F3N2O
